US08304380B2
To a solution of (2,4-dimethyl-1-vinylcyclohex-3-enyl)ethanol (20 mmol) in CH2Cl2 (40 ml) at room temperature was added PCC (40 mmol). The mixture was stirred at room temperature over night and was then diluted with hexane, filtered through a pad of celite and concentrated in vacuo. The residue was purified by chromatography to give 1-(2,4-dimethyl-1-vinylcyclohex-3-enyl)ethanone (83% yield).

reactant | (2,4-dimethyl-1-vinylcyclohex-3-enyl)ethanol | 20 mmol | CC1C(CCC(=C1)C)(C=C)C(C)O | C12H20O
reactant | PCC | 40 mmol | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 1-(2,4-dimethyl-1-vinylcyclohex-3-enyl)ethanone | 83% yield | CC1C(CCC(=C1)C)(C=C)C(C)=O | C12H18O
